US06831081B2
N-(4-Chlorobenzyl)-2-(((3R)-3-((S)-hydroxy(phenyl)methyl)morpholin-4-yl)methyl)-4-oxo-7-propyl-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide.
Analogous to the procedures described in Example 15, N-(4-chlorobenzyl)-2-(chloromethyl-7-propyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide (Preparation 13) is treated with (S)-(3R)-morpholin-3-yl(phenyl)methanol hydrochloride (Preparation 9) to afford the title compound.

reactant | chloromethyl-7-propyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | ClCC1=CC2=C(N(C=C(C2=O)C(=O)N)CCC)S1 | C12H13ClN2O2S
reactant | (S)-(3R)-morpholin-3-yl(phenyl)methanol hydrochloride | Cl.N1[C@H](COCC1)[C@@H](O)C1=CC=CC=C1
product | N-(4-Chlorobenzyl)-2-(((3R)-3-((S)-hydroxy(phenyl)methyl)morpholin-4-yl)methyl)-4-oxo-7-propyl-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CCC)SC(=C3)CN3[C@H](COCC3)[C@H](C3=CC=CC=C3)O)=O)C=C1 | C30H32ClN3O4S
